US04225315
1-(2',6'-dichlorophenyl)-4-methylamino-1,2-dihydro-1,3,5-triazin-2-one
To a magnetically stirred suspension of 11.88 g. (40 mmol) of 1-(2',6'-dichlorophenyl)-3-methylamidinourea hydrochloride in 30 ml. of CH3CN is added 9.52 g. (80 mmol) of N,N-dimethylformamide dimethylacetal in 20 ml. of CH3CN. The solid material begins to dissolve immediately but in a few minutes, before the starting material amidinourea has dissolved, another fine particle white solid begins to precipitate out. The reaction mixture is stirred at ambient temperature for 1 hour then heated to reflux for 2 hours. After 2 hours the reaction mixture is allowed to come to ambient temperature and the white solid precipitate filtered out to yield the desired product, melting point 270° C.; TLC (EtoAc 9:1); one major spot, one minor spot at origin. A small sample recrystallized from CH3OH/EtoAc gave 1 spot on TLC. (9.6 g. 89%). The product is recrystallized from MeOH to yield -1-(2',6'-dichlorophenyl)-4-methylamino-1,2-dihydro-1,3,5-triazin-2-one.

reactant | 1-(2',6'-dichlorophenyl)-3-methylamidinourea hydrochloride | 40 mmol | Cl.ClC1=C(C(=CC=C1)Cl)NC(=O)NC(NC)=N
reactant | CH3CN | CC#N | C2H3N
reactant | N,N-dimethylformamide dimethylacetal | 80 mmol | COC(N(C)C)OC | C5H13NO2
solvent | amidinourea | C(N)(=N)NC(=O)N | C2H6N4O
product | 1-(2',6'-dichlorophenyl)-4-methylamino-1,2-dihydro-1,3,5-triazin-2-one | ClC1=C(C(=CC=C1)Cl)N1C(N=C(N=C1)NC)=O | C10H8Cl2N4O
